US08293735B2
4-(3,3-Difluoroazetidin-1-yl)-piperidine
To a solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 5.0 mmol) in DCE (50 mL) was added 3,3-difluoroazetidine hydrochloride (712 mg, 5.5 mmol). The mixture was stirred at RT for 15 min, then sodium triacetoxyborohydride (1.59 g, 7.5 mmol) was added and stirring was continued for 17 h. The reaction mixture was diluted with brine and extracted with DCM. The organic layer was separated, dried (Na2SO4) and concentrated in vacuo. The resultant residue was purified by column chromatography to give 4-(3,3-difluoroazetidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester as a pale yellow solid (1.2 g, 88%). To a solution of 4-(3,3-difluoro-azetidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (552 mg, 2.0 mmol) in DCM (4 mL) was added TFA (2 mL) and the resulting mixture was stirred at RT for 45 min. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH then eluted with 2 M NH3 in MeOH to give the title compound as a pale yellow solid (271 mg, 77%).

reactant | 4-(3,3-difluoro-azetidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 552 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC(C1)(F)F | C13H22F2N2O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,3-Difluoroazetidin-1-yl)-piperidine | 271 mg, 77% | FC1(CN(C1)C1CCNCC1)F | C8H14F2N2
